US04629794
N-Carbobenzoxy-3-acetyl indole
To a stirred slurry of sodium hydride (3.77 g, 50% in oil, 7.86 mmol, extracted with hexanes) in THF (30 ml) at 0° C. under nitrogen was added dropwise 3-acetyl indole (10.0 g, 62.9 mmol) in THF (15 ml). After warming to room temperature and stirring one hour, the mixture was cooled to 0° C. and benzyl chloroformate (8.97 ml, 62.9 mmol) was added dropwise. The reaction was allowed to warm to room temperature and stir overnight. The excess sodium hydride was destroyed at 0° C. with 40 ml H2O. The mixture was then extracted three times with CHCl3 (total volume 120 ml), dried with MgSO4, filtered and evaporated to an off-white solid. Recrystallization from hexanes afforded 15.85 g (86%) of product: mp 112°-113°;

reactant | sodium hydride | 7.86 mmol, 3.77 g | [H-].[Na+]
reactant | 3-acetyl indole | 62.9 mmol, 10.0 g | C(C)(=O)C1=CNC2=CC=CC=C12 | C10H9NO
reactant | benzyl chloroformate | 62.9 mmol, 8.97 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | N-Carbobenzoxy-3-acetyl indole | 15.85 g, 86% | C(=O)(OCC1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(C)=O | C18H15NO3
